US08541588B2
4-[2-(1-azetidin-3-yl-1H-pyrazol-5-yl)-4-chlorophenoxy]-2,5-difluoro-N-1,2,4-thiadiazol-5-ylbenzenesulfonamide
4-(4-chloro-2-{1-[1-(diphenylmethyl)azetidin-3-yl]-1H-pyrazol-5-yl}phenoxy)-N-(2,4-dimethoxybenzyl)-2,5-difluoro-N-1,2,4-thiadiazol-5-ylbenzenesulfonamide (Preparation 688, 270 mg, 0.321 mmol) was dissolved in dichloromethane (15 ml) and N,N,N′,N′-tetramethylnaphthalene-1,8-diamine (85 mg, 0.40 mmol) was added followed by 1-chloroethyl chloroformate (0.07 ml, 0.65 mmol) and the solution was stirred at room temperature for 4 hours. The solution was concentrated in vacuo and the residue was partitioned between ethyl acetate (40 ml) and 1M aqueous citric acid solution (20 ml), the ethyl acetate was washed with water, dried over anhydrous sodium sulphate, evaporated and the solvents removed in vacuo to give an oil. The oil was dissolved in methanol (15 ml) and refluxed for 5 hours. Some of the methanol was removed in vacuo to leave about 5 ml, the precipitated solid was removed by filtration and the filtrate was adsorbed onto silica gel (5 g) and dried prior to purification by column chromatography on silica gel using 10-25% v/v methanol (containing 10% v/v 0.880 aqueous ammonia) in dichloromethane. This afforded the title compound as a pinkish solid, 80 mg.

reactant | 4-(4-chloro-2-{1-[1-(diphenylmethyl)azetidin-3-yl]-1H-pyrazol-5-yl}phenoxy)-N-(2,4-dimethoxybenzyl)-2,5-difluoro-N-1,2,4-thiadiazol-5-ylbenzenesulfonamide | 0.321 mmol, 270 mg | ClC1=CC(=C(OC2=CC(=C(C=C2F)S(=O)(=O)N(C2=NC=NS2)CC2=C(C=C(C=C2)OC)OC)F)C=C1)C1=CC=NN1C1CN(C1)C(C1=CC=CC=C1)C1=CC=CC=C1 | C42H35ClF2N6O5S2
reactant | N,N,N′,N′-tetramethylnaphthalene-1,8-diamine | 0.40 mmol, 85 mg | CN(C1=CC=CC2=CC=CC(=C12)N(C)C)C | C14H18N2
reactant | 1-chloroethyl chloroformate | 0.65 mmol, 0.07 ml | ClC(=O)OC(C)Cl | C3H4Cl2O2
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
solvent | methanol | 15 ml | CO | CH4O
product | 4-[2-(1-azetidin-3-yl-1H-pyrazol-5-yl)-4-chlorophenoxy]-2,5-difluoro-N-1,2,4-thiadiazol-5-ylbenzenesulfonamide | N1CC(C1)N1N=CC=C1C1=C(OC2=CC(=C(C=C2F)S(=O)(=O)NC2=NC=NS2)F)C=CC(=C1)Cl | C20H15ClF2N6O3S2
